US04719047
Using the reductive amination procedure outlined in 1, 10-chloro-2,3-dimethyl-9-anthracenecarbaldehyde and 2-methyl-2-amino-1,3-propanediol (Aldrich) gave 2-((10-chloro-2,3-dimethyl-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride mp 251°-252° (dec), (CH3OH/Et2O), (C,H,Cl,N).

reactant | 10-chloro-2,3-dimethyl-9-anthracenecarbaldehyde | ClC1=C2C=C(C(=CC2=C(C2=CC=CC=C12)C=O)C)C | C17H13ClO
reactant | 2-methyl-2-amino-1,3-propanediol | CC(CO)(CO)N | C4H11NO2
product | 2-((10-chloro-2,3-dimethyl-9-anthracenylmethyl)amino)-2-methyl-1,3-propanediol hydrochloride | Cl.ClC1=C2C=C(C(=CC2=C(C2=CC=CC=C12)CNC(CO)(CO)C)C)C | InChI=1S/C21H24ClNO2.ClH/c1-13-8-17-18(9-14(13)2)20(22)16-7-5-4-6-15(16)19(17)10-23-21(3,11-24)12-25;/h4-9,23-25H,10-12H2,1-3H3;1H
